US07985769B2
To mixture of methyl-3-amino-5-phenylthiophene-2-carboxylate (100 mg, 0.428 mmol) in anhydrous pyridine (4.3 ml) was added p-chlorobenzoyl chloride (71 μl, 0.556 mmol). The mixture was stirred for 3 hours at room temperature and concentrated. Purification chromatography (silica gel, hexane to hexane:ethyl acetate; 95:5) gave 145 mg (91% yield) of 3-(4-Chloro-benzoylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester. 1H NMR (CDC3, 400 MHz) 8.54 (s, 1H), 7.99-7.96 (m, 2H), 7.73-7.71 (m, 2H); 7.52-7.50 (m, 2H), 7.46-7.39 (m, 3H), 3.95 (s, 3H).

reactant | methyl-3-amino-5-phenylthiophene-2-carboxylate | 0.428 mmol, 100 mg | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | p-chlorobenzoyl chloride | 0.556 mmol, 71 μl | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | pyridine | 4.3 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Chloro-benzoylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 145 mg, 91% yield | COC(=O)C=1SC(=CC1NC(C1=CC=C(C=C1)Cl)=O)C1=CC=CC=C1 | C19H14ClNO3S
